* source CIRC
E_U1         N14790 0 VALUE {LIMIT(V(0,N14773)*1E6,-15V,+15V)} _U1 0 N14773 1G

E_U2         N14825 0 VALUE {LIMIT(V(0,N14808)*1E6,-15V,+15V)} _U2 0 N14808 1G

E_U3         N15551 0 VALUE {LIMIT(V(0,N15214)*1E6,-15V,+15V)} _U3 0 N15214 1G

E_U4         N15252 0 VALUE {LIMIT(V(0,N15235)*1E6,-15V,+15V)} _U4 0 N15235 1G

E_U5         N15294 0 VALUE {LIMIT(V(0,N15277)*1E6,-15V,+15V)} _U5 0 N15277 1G

E_U6         N15652 0 VALUE {LIMIT(V(0,N15457)*1E6,-15V,+15V)} _U6 0 N15457 1G

E_U7         N15687 0 VALUE {LIMIT(V(0,N15670)*1E6,-15V,+15V)} _U7 0 N15670 1G

R_R1         N14773 N14790  1 TC=0,0 
R_R2         N14808 N14825  1 TC=0,0 
R_R3         N15214 N15551  1 TC=0,0 
R_R4         N15235 N15252  1 TC=0,0 
R_R5         N15277 N15294  1 TC=0,0 
E_U8         N15387 0 VALUE {LIMIT(V(0,N15370)*1E6,-15V,+15V)} _U8 0 N15370 1G

R_R6         N15370 N15387  1k TC=0,0 
R_R7         N15294 N15370  1 TC=0,0 
R_R8         N15670 N15652  1 TC=0,0 
R_R9         N15687 N15670  1 TC=0,0 
C_C1         N16219 N14773  1  TC=0,0 
C_C2         N14790 N14808  0.1  TC=0,0 
C_C3         N15687 N15214  0.1  TC=0,0 
C_C4         N15687 N15235  1  TC=0,0 
C_C5         N15252 N15277  0.01  TC=0,0 
R_R10         N15457 N15652  1 TC=0,0 
R_R11         N15551 N15457  1 TC=0,0 
R_R12         N15387 N15457  1 TC=0,0 
R_R13         N14825 N15457  1 TC=0,0 
R_R14         N15457 N16219  1 TC=0,0 
V_V1         N16219 0 DC 1 
+SIN 0 1 10 0 0 0
